US08426433B2
2. 4-Chloro-N-methyl-3-nitro-N-phenylbenzene sulfonamide
4-Chloro-3-nitrobenzene-1-sulfonyl chloride (10.6 g, 0.041 mol) was dissolved in toluene (50 ml); and triethylamine (4.14 g, 0.041 mol) was then added. To the resulting solution, N-methylaniline (4.4 g, 0.041 mol) was added under stirring. The reaction mixture was incubated at 70-80° C. for 1 h. Thereafter, it was allowed to cool. The cooled solution was washed twice with 30 ml of water and concentrated under vacuum. The residue was recrystallized from ethanol. The yield of 4-chloro-N-methyl-3-nitro-N-phenylbenzene sulfonamide was 9.4 g (61%).

reactant | 4-Chloro-3-nitrobenzene-1-sulfonyl chloride | 0.041 mol, 10.6 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | triethylamine | 0.041 mol, 4.14 g | C(C)N(CC)CC | C6H15N
reactant | N-methylaniline | 0.041 mol, 4.4 g | CNC1=CC=CC=C1 | C7H9N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-N-methyl-3-nitro-N-phenylbenzene sulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(C1=CC=CC=C1)C)[N+](=O)[O-] | C13H11ClN2O4S
